US08124606B2
Bis(2-chloroethyl)amine hydrochloride (1.79 g, 10.03 mmol) and 4-fluoro-2-methylaniline (1.26 g, 10.07 mmol) were dissolved in 2-propanol (Volume: 10 mL) and stirred in a closed vial at 100° C. overnight. The reaction mixture was diluted with i-PrOH (10 mL) and cooled to 10° C. The resulting precipitate was filtered and purified using HPLC (10-80% ACN in water, TFA-buffered). The fractions were concentrated in vacuo, suspended in ether (3 mL) and treated with 4N HCl in dioxane (1 mL). The precipitate was filtered and dried in vacuum to afford 1-(4-fluoro-2-methylphenyl)piperazine dihydrochloride (150 mg, 0.561 mmol, 5.60% yield). ESI-MS: m/z 195 (M+H)+.

reactant | Bis(2-chloroethyl)amine hydrochloride | 10.03 mmol, 1.79 g | Cl.ClCCNCCCl
reactant | 4-fluoro-2-methylaniline | 10.07 mmol, 1.26 g | FC1=CC(=C(N)C=C1)C | C7H8FN
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
solvent | i-PrOH | 10 mL | CC(C)O | C3H8O
product | 1-(4-fluoro-2-methylphenyl)piperazine dihydrochloride | 0.561 mmol, 150 mg, 5.60% yield | Cl.Cl.FC1=CC(=C(C=C1)N1CCNCC1)C | InChI=1S/C11H15FN2.2ClH/c1-9-8-10(12)2-3-11(9)14-6-4-13-5-7-14;;/h2-3,8,13H,4-7H2,1H3;2*1H
